US06489344B1
6-chloro-2-methoxypyridine-3-carbonitrile was prepared from 2,6-dichloropyridine-3-carboxamide in accordance with the procedure described above for the preparation of 6-chloro-2-methoxy-3-nitro-pyridine.

reactant | 2,6-dichloropyridine-3-carboxamide | ClC1=NC(=CC=C1C(=O)N)Cl | C6H4Cl2N2O
reactant | 6-chloro-2-methoxy-3-nitro-pyridine | ClC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5ClN2O3
product | 6-chloro-2-methoxypyridine-3-carbonitrile | ClC1=CC=C(C(=N1)OC)C#N | C7H5ClN2O
